US05534481
Preparation of 4-(2-fluoroethoxy)-2-methyl-2H-indazole-3-sulfonamide (Intermediate No. 230)
A mixture comprising 3 4 g of N1,N1 -dimethyl-N2 -([4-(2-fluoroethoxy)-2-methyl-2H-indazol-3-yl]sulfonyl}formamidine, 5 ml of concentrated hydrochloric acid and 50 ml of ethanol, was refluxed for 12 hours. Disappearance of the starting material was confirmed by TLC, and then ethanol was distilled off. Water was added to the residue, whereupon the formed crystals were collected by filtration and washed with water and IPE to obtain 2.4 g (yield: 85%) of the desired product. Melting point: 178°-180° C.

reactant | N1,N1 -dimethyl-N2 -([4-(2-fluoroethoxy)-2-methyl-2H-indazol-3-yl]sulfonyl}formamidine | CN(C=NS(=O)(=O)C=1N(N=C2C=CC=C(C12)OCCF)C)C | C13H17FN4O3S
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(2-fluoroethoxy)-2-methyl-2H-indazole-3-sulfonamide | 2.4 g, yield: 85% | FCCOC=1C2=C(N(N=C2C=CC1)C)S(=O)(=O)N | C10H12FN3O3S
